US07547779B2
Step 2. 4-[1-ethyl-6-({3-[3-(4-methyl-1-piperazinyl)-3-oxopropyl]phenyl}oxy)-1H-imidazo[4,5-c]pyridin-2-yl]-furazan-3-amine
Under argon, to a suspension of 4-(6-bromo-1-ethyl-1H-imidazo[4,5-c]pyridin-2-yl)-furazan-3-amine (prepared by the method of Example 8, Steps 3-7, substituting ethylamine for aniline in Step 3) (100 mg, 0.32 mmol) in toluene (5 mL) and DME (5 mL), was added the product of Step 1 (128 mg, 0.52 mmol), CuI (62 mg, 0.32 mmol), 1,10-phenanthroline (116 mg, 0.65 mmol), and Cs2CO3 (210 mg, 0.65 mmol). This mixture was then heated to 170° C. by microwave for 40 min. To the reaction mixture was added DMSO (2.0 mL), diluted with EtOAC/MeOH, sonicated for 10 min, then filtered and concentrated. Residue was purified with reverse phase HPLC (10% MeCN/H2O→80% MeCN/H2O, containing 0.1% TFA), to afford the title compound as a pale yellow solid (12.0 mg, 8%). 1H NMR (400 MHz, MeOD) δ ppm 8.71 (d, 1H, 0.8 Hz), 7.35 (t, 1H, 8.0 Hz), 7.19 (d, 1H, 0.8 Hz), 7.10 (d, 1H, 7.6 Hz), 6.94-7.10 (m, 2H), 4.72 (q, 2H, 7.2 Hz), 3.42-3.61 (m, 4H), 2.96 (t, 2H, 7.6 Hz), 2.74 (t, 2H, 7.6 Hz), 2.40-2.48 (m, 4H), 2.35 (s, 3H), 1.46 (t, 3H, 7.2 Hz). MS (ES+) m/e 477 [M+H]+.

reactant | 4-(6-bromo-1-ethyl-1H-imidazo[4,5-c]pyridin-2-yl)-furazan-3-amine | BrC1=CC2=C(C=N1)N=C(N2CC)C=2C(=NON2)N | C10H9BrN6O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 1,10-phenanthroline | 0.65 mmol, 116 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 0.65 mmol, 210 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DME | 5 mL | COCCOC | C4H10O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
catalyst | CuI | 0.32 mmol, 62 mg | [Cu]I
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
product | 4-[1-ethyl-6-({3-[3-(4-methyl-1-piperazinyl)-3-oxopropyl]phenyl}oxy)-1H-imidazo[4,5-c]pyridin-2-yl]-furazan-3-amine | 12.0 mg, 8% | C(C)N1C(=NC=2C=NC(=CC21)OC2=CC(=CC=C2)CCC(=O)N2CCN(CC2)C)C=2C(=NON2)N | C24H28N8O3
